Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Flagyl
 
Attending: ___.
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ y.o M with PMH of atrial fibrillation on xarelta, HTN, CKD 
presenting with worsening dyspnea on exertion and lower 
extremity edema. He also endorses lower extremity swelling, 
which he noticed on the day of admission. He otherwise denies 
fevers, chills, orthopnea.  

He states that he was diagnosed with atrial fibrillation 
approximately a year or two ago and started on xarelto for 
anticoagulation. Since that time, he endorses some dyspnea on 
exertion, which has gotten significantly worse over the past 
month. He is now dyspneic with minimal exertion, even when 
moving around the kitchen. On the day of admission, he noticed 
swelling in his bilateral ankles and a mottling/bluish 
discoloration to his ankles. He reports a significant weight 
gain since coming to the ___. which he thinks is secondary to 
changes in diet. He reports that he has likely gained weight 
even in the last month. He also notes that he has a lot of gas, 
but denies abdominal pain, nausea, or vomiting.  

His daughter reports that he may have a problem with the mitral 
valve but is unsure exactly what it is. The patient has never 
been on diuretics before.  
 
In the ED initial vitals were: 96.6 95 152/98 18 99% RA  
EKG significant for atrial fibrillation with a rate of 89, <___levations in V2-V3, no t wave inversions.  
Exam notable for bibasilar crackles, with lower extremity 
pitting edema L> R.  

Labs: CBC WNL with platelets of 148, BMP notable for a K 5.0, 
BUN 26, Cr 1.8. LFTS negative. proBNOP ___. UA negative. INR 
1.5.  
Patient was given 234 aspirin.  
Official CXR read not available but does appear to have severe 
elevation of L hemidiaphragm  

Vitals on transfer: 73 127/82 18 97% RA  
On the floor the patient tells the story as above  

ROS:  
Cardiac review of systems is notable for absence of chest pain, 
edema, palpitations, syncope or presyncope. Denies exertional 
buttock or calf pain. Denies recent fevers, chills or rigors, 
abdominal pain, N/V, numbness/tingling, constipation, dysuria.  
 
Past Medical History:
1. CARDIAC RISK FACTORS: +hypertension, +dyslipidemia,  
2. CARDIAC HISTORY:  
- CABG: None  
- PERCUTANEOUS CORONARY INTERVENTIONS: None  
- PACING/ICD: None  
3. OTHER PAST MEDICAL HISTORY:  
- BPH  
- atrial fibrillation  
- polycystic kidney disease  
- polycystic liver disease  
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, DM.  
+ MI (maternal grandmother in her ___  
 
Physical Exam:
--------------------
ADMISSION EXAM:
--------------------
VS: 97. 129/74 83 97 RA  
Weight: 78.3 kg  
GENERAL: well nourished male in no acute distress, no 
respiratory distress, speaking in full sentences.  
HEENT: anicteric sclera, PERRL, extraocular movements intact, 
MMM  
NECK: Supple with JVP to the bottom ___ARDIAC: irregular rate, rhythm, + systolic murmur heard at the 
RUSB  
 LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. +crackles in the RLL 
base; decreased breath sounds in the LLL with dullness to 
percussion  
 ABDOMEN: Soft, nontender, no rebound or guarding,  
 EXTREMITIES: No cyanosis. DP 1+ bilaterally, legs warm, feet 
slightly cooler, 1+ pitting edema to the midshin  
 SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
 PULSES: Distal pulses palpable and symmetric  

--------------------
DISCHARGE EXAM:
--------------------
VS: Tc 98.2  BP 130/82  HR 83  RR 18  O2 97% RA  
GENERAL: Well nourished male in no acute distress, no 
respiratory distress, speaking in full sentences.  
HEENT: PERRL, extraocular movements intact, MMM  
CARDIAC: Irregular rate, rhythm, +systolic murmur heard at the 
RUSB  
LUNGS: Resp unlabored, no accessory muscle use. CTAB. 
ABDOMEN: Soft, nontender, non-distended  
EXT: No cyanosis. Very mild pitting edema to the ankles.
SKIN: Warm, dry, intact
NEURO: AOX3, CN2-12 grossly intact

 
Pertinent Results:
-------------------
ADMISSION LABS:
-------------------

CHEM:
___ 09:50PM   GLUCOSE-98 UREA N-26* CREAT-1.8* SODIUM-141 
POTASSIUM-5.0 CHLORIDE-107 TOTAL CO2-24 ANION GAP-15
___ 09:50PM   ALT(SGPT)-23 AST(SGOT)-29 ALK PHOS-42 TOT 
BILI-0.7
___ 08:46AM   CALCIUM-9.6 PHOSPHATE-3.9 MAGNESIUM-2.1

CBC:
___ 09:50PM   WBC-6.9 RBC-4.91 HGB-14.8 HCT-46.8 MCV-95 
MCH-30.1 MCHC-31.6* RDW-13.4 RDWSD-47.1*
___ 09:50PM   NEUTS-58.1 ___ MONOS-7.3 EOS-3.4 
BASOS-1.2* IM ___ AbsNeut-3.98 AbsLymp-2.01 AbsMono-0.50 
AbsEos-0.23 AbsBaso-0.08

CARDIAC:
___ 09:50PM   cTropnT-<0.01 ___

COAGS:
___ 09:50PM   ___ PTT-44.9* ___

--------------------
DISCHARGE LABS:
--------------------

CHEM:
___ 01:30PM BLOOD Glucose-100 UreaN-42* Creat-2.0* Na-138 
K-4.5 Cl-101 HCO3-22 AnGap-20

--------------
MICRO: None
--------------

-----------
STUDIES:
-----------
TTE (___):
The left atrium is moderately dilated. No left atrial 
mass/thrombus seen (best excluded by transesophageal 
echocardiography). No atrial septal defect is seen by 2D or 
color Doppler. There is mild symmetric left ventricular 
hypertrophy with normal cavity size and regional/global systolic 
function (LVEF>55%). Right ventricular chamber size and free 
wall motion are normal. The diameters of aorta at the sinus, 
ascending and arch levels are normal. The aortic valve leaflets 
(3) appear structurally normal with good leaflet excursion and 
no aortic stenosis or aortic regurgitation. The mitral valve 
leaflets are structurally normal. Mild (1+) mitral regurgitation 
is seen. The estimated pulmonary artery systolic pressure is 
normal. There is no pericardial effusion. 

IMPRESSION: Mild symmetric left ventricular hypertrophy with 
preserved regional and global biventricular systolic function. 
Mild mitral regurgitation with normal valve morphology.
 
Brief Hospital Course:
___ y.o M with PMH of atrial fibrillation on Xarelto, HTN, CKD 
who presented with worsening dyspnea on exertion and lower 
extremity edema.  

-----------------
ACTIVE ISSUES:
-----------------

#DIASTOLIC HEART FAILURE: 
Patient presented with dyspnea on exertion, lower extremity 
edema, and an elevated proBNP (___). This appeared to be a 
subacute on chronic presentation as the patient noted he didn't 
even notice that he was short of breath, that it was his family. 
TTE revealed preserved left ventricular function, which along 
with his clinical presentation was consistent with diastolic 
heart failure. The patient responded very well to 2 dose of 
Lasix IV 10 mg as he was Lasix naive and his dyspnea and edema 
improved significantly. CXR was significant for elevation of the 
left hemidiaphragm, which could be secondary to diaphragmatic 
eventration, paralysis, or rupture (however less likely without 
history of trauma). It was unclear if this finding was 
contributing to the patient's dyspnea. Patient was sent home 
with a script for Lasix to take if baseline weight increased by 
3 lb. 

#ACUTE ON CHRONIC KIDNEY DISEASE: 
Patient reported that his baseline Cr is between 1.8-1.9. 
Admission Cr of 1.8. Cr 2.2 after Lasix, back down to 2.0 on 
discharge. Likely from his diuresis. Held home losartan, BPs 
remained stable, and did not resume on discharge.

STABLE/CHRONIC ISSUES:

#A-FIB: 
On telemetry, constant a-fib, no runs of tachycardia. Had been 
on Xarelto for the last couple of years. 
- Continued Xarelto 10 mg daily (home dose, renally adjusted)

#GOUT: 
- Continued allopurinol at 100 mg daily (unsure of home dose)  

------------------
CORE MEAURES:
------------------
#FEN: IVF prn / Replete Lytes prn / Heart-Healthy diet  
#ACCESS: PIV's  
#PROPHYLAXIS:  
 - DVT ppx on Xarelto 
 - Pain management with Tylenol  prn
 - Bowel regimen with Senna/Colace  
#LANGUAGE SPOKEN: ___  
#CODE: Full presumed, did not end up clarifying as ___ 
hospital stay was very brief.
#CONTACT: ___ (daughter) ___  

TRANSITIONAL ISSUES:
- Patient is to measure daily weights
- Patient is to take Lasix if weight increases by 3 lbs and call 
a physician. 
- Holding losartan for increased creatinine. Check CHEM7 on 
___ and restart if creatinine <2.0 (his baseline is around 
1.8)
- Page Dr. ___ for any questions
- Discharge weight: 75.6 kg 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cozaar (losartan) 50 mg oral DAILY 
2. amLODIPine 5 mg PO DAILY 
3. Glucosamine (glucosamine sulfate) 500 mg oral DAILY 
4. Rivaroxaban 10 mg PO DAILY 
5. Allopurinol Dose is Unknown  PO DAILY 
6. Atorvastatin 20 mg PO QPM 
7. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Furosemide 20 mg PO DAILY:PRN weight gain 
Take if your weight has increased by 3 pounds from your baseline 
weight. 
RX *furosemide 20 mg 1 tablet(s) by mouth DAILY PRN Disp #*30 
Tablet Refills:*2 
2.  Allopurinol ___ mg PO DAILY  
3.  amLODIPine 5 mg PO DAILY  
4.  Atorvastatin 20 mg PO QPM  
5.  Glucosamine (glucosamine sulfate) 500 mg oral DAILY  
6.  Multivitamins 1 TAB PO DAILY  
7.  Rivaroxaban 10 mg PO DINNER  
8. HELD- Cozaar (losartan) 50 mg oral DAILY  This medication was 
held. Do not restart Cozaar until creatinine is <2.0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
- Acute diastolic heart failure

SECONDARY:
- Atrial fibrillation
- Polycystic kidney disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

Why you were here:
- You were having trouble breathing while walking and swelling 
in your legs

What we did:
- We gave you a water pill in IV form called Lasix which helped 
your body get rid of extra fluid
- An echocardiogram (ultrasound of your heart)

What we found:
- You responded well to Lasix and your breathing improved
- On the echocardiogram, your heart is pumping blood well

What you should do:
- Follow up with a doctor at ___ ___ to make sure 
that you feel well before your upcoming trip
- Weigh yourself every day at the same time and record it in a 
journal. This helps your doctors monitor ___ much fluid is in 
your body, and know if you will need more Lasix.
- If your weight goes up by 3 pounds, take Lasix once and call 
your doctor. 

It was a pleasure taking care of you,
Your ___ Team
 
Followup Instructions:
___